US06995144B2
1-(2-Oxo-1,2-dihydro-3-pyridylmethyl)-4-(2-methylphenoxymethyl)piperidine-4-carbonitrile
After then adding 117 mg of the 4-cyano-4-(2-methylphenoxymethyl)piperidine hydrochloride and 70 mg of 2-oxo-1,2-dihydropyridine-3-carboxaldehyde [CAS No.36404-89-4] to 10 ml of dichloromethane, the mixture was stirred for 20 minutes at room temperature. 139 mg of sodium triacetoxyborohydride was added and the mixture was stirred overnight at room temperature. Saturated aqueous sodium bicarbonate solution was added to the reaction mixture and extraction was performed with ethyl acetate and chloroform. After drying the organic layer over magnesium sulfate, the solvent was distilled off under reduced pressure. The obtained residue was purified by NH silica gel column chromatography (solvent: chloroform/methanol) to obtain the title compound (7 mg, 5% yield).

reactant | 4-cyano-4-(2-methylphenoxymethyl)piperidine hydrochloride | 117 mg | Cl.C(#N)C1(CCNCC1)COC1=C(C=CC=C1)C
reactant | 2-oxo-1,2-dihydropyridine-3-carboxaldehyde | 70 mg | O=C1NC=CC=C1C=O | C6H5NO2
reactant | sodium triacetoxyborohydride | 139 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(2-Oxo-1,2-dihydro-3-pyridylmethyl)-4-(2-methylphenoxymethyl)piperidine-4-carbonitrile | 7 mg, 5% yield | O=C1NC=CC=C1CN1CCC(CC1)(C#N)COC1=C(C=CC=C1)C | C20H23N3O2
